US07022707B2
(R)-3-Ethyl-piperazine-1-carboxylic acid tert-butyl ester:
(R)-2-Ethyl-piperazine dihydrochloride (25.9 g, 01.38 M) was dissolved in dichloromethane (700 mL) and cooled to 0° C. Triethylamine (48.2 mL, 0.346 M) was added and subsequently di-tert-butyl-dicarbonate (30.2 g, 0.138 M) dissolved in dichloromethane (50 mL) was added within 30 min with cooling (0–5° C.) and stirring. Stirring was continued for another 3 h at room temperature. The mixture was washed with water, the water phase was extracted twice with dichloromethane, organic phases were pooled, dried with Na2SO4 and evaporated to yield a colorless oil (31 g). The residue was purified by column chromatography (silica gel; dichoromethane/methanol 90:10) to yield 26.5 g (89%) of a colorless oil. MS (ISP): 215.5 (M+H)+.

reactant | (R)-2-Ethyl-piperazine dihydrochloride | 25.9 g | Cl.Cl.C(C)[C@H]1NCCNC1
reactant | Triethylamine | 0.346 M, 48.2 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl-dicarbonate | 0.138 M, 30.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 700 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (R)-3-Ethyl-piperazine-1-carboxylic acid tert-butyl ester | 31 g | C(C)(C)(C)OC(=O)N1C[C@H](NCC1)CC | C11H22N2O2
